US06316466B1
Into a solution of n-butyl lithium (165 ml, 264 mmol) in butyl ether (250 ml) at −78 degrees under nitrogen was added 3-bromopyridine (25.4 ml, 264 mmol). After 1 h, added diethylmethoxyborane (52 ml, 396 mmol). The mixture was allowed to warm to room temperature. After 16 h, added water and brine, separated organic layer, dried over sodium sulfate, then concentrated. The resulting slurry was dissolved in isopropanol (500 ml), cooled and the product isolated by filtration give diethyl(3-pyridyl)borane (29.8 g).

reactant | n-butyl lithium | 264 mmol, 165 ml | C(CCC)[Li]
reactant | 3-bromopyridine | 264 mmol, 25.4 ml | BrC=1C=NC=CC1 | C5H4BrN
reactant | diethylmethoxyborane | 396 mmol, 52 ml | C(C)B(OC)CC | C5H13BO
reactant | water | O | H2O
solvent | butyl ether | 250 ml | C(CCC)OCCCC | C8H18O
solvent | brine | [Cl-].[Na+].O
product | diethyl(3-pyridyl)borane | 29.8 g | C(C)B(C=1C=NC=CC1)CC | C9H14BN
